US09301951B2
Intermediate 4.14a: (S)—N-(2-methoxyethyl)piperidine-3-carboxamide
A 0° C. solution of 500 mg of (S)-1-(tert-butoxycarbonyl)piperidine-3-carboxylic acid, 328 mg of 2-methoxyethylamine, 736 mg of HOBt, and 1.82 mL of triethylamine in 9 mL of dichloromethane was treated with 836 mg of EDC.HCl. The mixture was stirred at 25° C. overnight and the solvent was evaporated at reduced pressure. The residue was dissolved in ethyl acetate, and the solution was sequentially washed with water, an aqueous solution of citric acid, an aqueous sodium bicarbonate solution, and brine. The solution was dried (Na2SO4) and the solvent was evaporated. The residue was dissolved in a 4 M solution of HCl in dioxane. After 1 h the mixture was evaporated to give 406 mg of the product.

reactant | (S)-1-(tert-butoxycarbonyl)piperidine-3-carboxylic acid | 500 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)C(=O)O | C11H19NO4
reactant | 2-methoxyethylamine | 328 mg | COCCN | C3H9NO
reactant | HOBt | 736 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 836 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | triethylamine | 1.82 mL | C(C)N(CC)CC | C6H15N
product | (S)—N-(2-methoxyethyl)piperidine-3-carboxamide | 406 mg | COCCNC(=O)[C@@H]1CNCCC1 | C9H18N2O2
